US09375009B2
To 4-[4-(5-{2-[(methylsulphonyl)oxy]phenyl}-4,5-dihydro-1,2-oxazol-3-yl)-1,3-thiazol-2-yl]piperidinium chloride (110 mg) in dimethylformamide (6 ml) were added, under argon, glycolic acid (19 mg), diisopropylethylamine (32 mg) and O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate (TBTU, 159 mg). Then diisopropylethylamine (64 mg) was added once again to the reaction mixture. The reaction mixture was stirred at room temperature for 1 h. Then ice-cold sodium hydrogencarbonate solution was added thereto, the mixture was filtered, and the aqueous phase was removed and extracted with dichloromethane. The combined organic phases were dried over magnesium sulphate and concentrated. Purification by column chromatography gave 2-{3-[2-(1-glycoloylpiperidin-4-yl)-1,3-thiazol-4-yl]-4,5-dihydro-1,2-oxazol-5-yl}phenyl methanesulphonate (15 mg, 12%).

reactant | 4-[4-(5-{2-[(methylsulphonyl)oxy]phenyl}-4,5-dihydro-1,2-oxazol-3-yl)-1,3-thiazol-2-yl]piperidinium chloride | 110 mg | [Cl-].CS(=O)(=O)OC1=C(C=CC=C1)C1CC(=NO1)C=1N=C(SC1)C1CC[NH2+]CC1
reactant | glycolic acid | 19 mg | C(CO)(=O)O | C2H4O3
reactant | diisopropylethylamine | 32 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate | 159 mg | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | diisopropylethylamine | 64 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | 2-{3-[2-(1-glycoloylpiperidin-4-yl)-1,3-thiazol-4-yl]-4,5-dihydro-1,2-oxazol-5-yl}phenyl methanesulphonate | 15 mg, 12% | CS(=O)(=O)OC1=C(C=CC=C1)C1CC(=NO1)C=1N=C(SC1)C1CCN(CC1)C(CO)=O | C20H23N3O6S2
